US04199580
A solution of 2-[4-(2,3-epoxypropoxy)phenyl-4-trifluoromethylimidazole in triethylamine (15 ml) is added 1.1 equivalents of a dimethylamine. This solution is refluxed until reaction is complete as indicated by TLC. The solvent is removed under reduced pressure and the residue recrystallized to yield 2-[4-(3-dimethylamino-2-hydroxypropoxy)phenyl]-4-trifluoromethylimidazole.

reactant | 4-(2,3-epoxypropoxy)phenyl-4-trifluoromethylimidazole | O1C(COC2=CC=C(C=C2)C=2NC=C(N2)C(F)(F)F)C1 | C13H11F3N2O2
reactant | dimethylamine | 1.1 equivalents | CNC | C2H7N
solvent | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
product | 2-[4-(3-dimethylamino-2-hydroxypropoxy)phenyl]-4-trifluoromethylimidazole | CN(CC(COC1=CC=C(C=C1)C=1NC=C(N1)C(F)(F)F)O)C | C15H18F3N3O2
